US05688798
0.23 g (0.00073 mol) of 5-[4-(4-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine was dissolved in 250 ml of hot methanol. The solution was treated at room temperature with 0.84 ml (0.00293 mol) of 3.5N ethanolic hydrochloric acid. The solution was completely freed from the solvents and recrystallized from methanol/diethyl ether. 0.27 g (96%) of 5-[4-(4-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine hydrochloride (1:2.3) was obtained as white crystals; m.p. 215°-216°.

reactant | 5-[4-(4-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine | 0.00073 mol, 0.23 g | COC1=CC=C(C=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | C16H22N6O
reactant | hydrochloric acid | 0.00293 mol, 3.5N, 0.84 ml | Cl | ClH
solvent | methanol | 250 ml | CO | CH4O
product | 5-[4-(4-methoxy-phenyl)-piperazin-1-ylmethyl]-pyrimidine-2,4-diamine hydrochloride | 0.27 g, 96% | Cl.COC1=CC=C(C=C1)N1CCN(CC1)CC=1C(=NC(=NC1)N)N | InChI=1S/C16H22N6O.ClH/c1-23-14-4-2-13(3-5-14)22-8-6-21(7-9-22)11-12-10-19-16(18)20-15(12)17;/h2-5,10H,6-9,11H2,1H3,(H4,17,18,19,20);1H
